US07902252B2
4.5. Synthesis of 6-oxo-1,4,5,6-tetrahydro-cyclopenta[b]pyrrole-2-carboxylic acid (24)
The title compound was synthesized from ethyl 6-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (90 mg, 0.47 mmol) and lithium hydroxide monohydrate (78 mg, 1.86 mmol) according to General Procedure 7 (56 mg, 77%). 1H NMR (400 MHz, METHANOL-d4) δ ppm 2.84-2.91 (4H), 6.73 (s, 1H); LCMS-MS (ESI+) 165.8 (M+H); HPLC (UV=100%), (ELSD=100%).

reactant | ethyl 6-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.47 mmol, 90 mg | O=C1CCC2=C1NC(=C2)C(=O)OCC | C10H11NO3
reactant | lithium hydroxide monohydrate | 1.86 mmol, 78 mg | O.[OH-].[Li+]
product | 6-oxo-1,4,5,6-tetrahydro-cyclopenta[b]pyrrole-2-carboxylic acid | O=C1CCC2=C1NC(=C2)C(=O)O | C8H7NO3
